US08536183B2
(2S)-2-Methyl-1-[(6-methyl-3-pyridinyl)carbonyl]-4-({4-[(trifluoromethyl)oxy]phenyl}sulfonyl)piperazine
To a solution of (2S)-2-methyl-1-[(6-methyl-3-pyridinyl)carbonyl]piperazine (Description 13) (100 mg, 0.456 mmol) in DMF (10 ml) was added 4-[(trifluoromethyl)oxy]benzenesulfonyl chloride (143 mg, 0.547 mmol). Finally DIPEA (0.239 ml, 1.368 mmol) was added and the reaction mixture was stirred at room temperature for 20 h. Solvent was removed by evaporation, the residue was dissolved in ethyl acetate and the solution extracted with saturated aqueous NaHCO3. The organic layer was dried over MgSO4, filtered and evaporated to dryness and the residue was purified by MDAP to yield the title compound (32 mg) as a white powder.

reactant | (2S)-2-methyl-1-[(6-methyl-3-pyridinyl)carbonyl]piperazine | 0.456 mmol, 100 mg | C[C@@H]1N(CCNC1)C(=O)C=1C=NC(=CC1)C | C12H17N3O
reactant | 4-[(trifluoromethyl)oxy]benzenesulfonyl chloride | 0.547 mmol, 143 mg | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
reactant | DIPEA | 1.368 mmol, 0.239 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (2S)-2-Methyl-1-[(6-methyl-3-pyridinyl)carbonyl]-4-({4-[(trifluoromethyl)oxy]phenyl}sulfonyl)piperazine | 32 mg | C[C@@H]1N(CCN(C1)S(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F)C(=O)C=1C=NC(=CC1)C | C19H20F3N3O4S
